US07683064B2
6-Fluoro-3,4-dihydro-2H-isoquinolin-1-one (149 mg, 0.903 mmol) was dissolved in 3 mL 1,4-dioxane. Argon was bubbled through this solution for 1 minute and 2,3-dichloro-5,6-dicyano-p-benzoquinone (205 mg, 0.903 mmol) was added. This was heated at 100° C. for 24 hours. The resulting mixture was partitioned between ethyl acetate and 1M aq. sodium hydroxide. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (50% ethyl acetate/hexanes) to yield 6-Fluoro-2H-isoquinolin-1-one (54 mg, 0.33 mmol). MS (ESI) 164.1 (M+H)+.

reactant | 6-Fluoro-3,4-dihydro-2H-isoquinolin-1-one | 0.903 mmol, 149 mg | FC=1C=C2CCNC(C2=CC1)=O | C9H8FNO
reactant | 2,3-dichloro-5,6-dicyano-p-benzoquinone | 0.903 mmol, 205 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 6-Fluoro-2H-isoquinolin-1-one | 0.33 mmol, 54 mg | FC=1C=C2C=CNC(C2=CC1)=O | C9H6FNO
